US07022677B1
N-(3-Azido-2-hydroxypropyl)phthalimide, 9
To DMF solution (400 ml) of N-(2,3-epoxypropyl)phthalimide 58.8 g (0.29 mol), sodium azide 37.6 g (0.58 mol) and ammonium chloride 18.5 g (0.35 mol) were added, and stirred at 90° C. for 3 hours. The reaction mixture was cooled to room temperature, and then filtered. The filtrate was evaporated to dryness. The residue was dissolved in benzene (800 ml), washed with water, brine and water sequentially and then dried over sodium sulfate. The solvent was removed in vacuo. The desired product was further purified by silica gel chromatography. 66.3 g of desired product was obtained. The NMR spectra were consistent with the desired title intermediate.

reactant | N-(2,3-epoxypropyl)phthalimide | 0.29 mol, 58.8 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
reactant | sodium azide | 0.58 mol, 37.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.35 mol, 18.5 g | [Cl-].[NH4+]
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | N-(3-Azido-2-hydroxypropyl)phthalimide | 66.3 g | N(=[N+]=[N-])CC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C11H10N4O3
